US06090818
N'-(4-Ethoxyphenyl)-4,4-ethylenedioxycyclohexanecarbohydrazide.
At -40° C., 1.65 ml of isobutyl chloroformate are added to a mixture of 2.63 g of sodium 4,4-ethylenedioxycyclohexanoate in 20 ml of tetrahydrofuran followed by 1.8 ml of triethylamine. The reaction mixture is stirred for 2 hours at 0° C., then at -20° C., 2.4 g of 4-ethoxyphenylhydrazine hydrochloride are added; the reaction mixture is stirred for 2 hours at 0° C. then 100 ml of water are added and it is extracted with ethyl acetate. The organic phases are washed successively with water, with a solution of potassium bisulfate (pH=2), with a saturated potassium carbonate solution, dried over magnesium sulfate and evaporated off. The expected product is obtained after crystallisation from diethyl ether; M.p.=158° C.

reactant | isobutyl chloroformate | 1.65 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium 4,4-ethylenedioxycyclohexanoate | 2.63 g | C1OC2(CCC(CC2)C(=O)[O-])OC1.[Na+]
reactant | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | 4-ethoxyphenylhydrazine hydrochloride | 2.4 g | Cl.C(C)OC1=CC=C(C=C1)NN
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | N'-(4-Ethoxyphenyl)-4,4-ethylenedioxycyclohexanecarbohydrazide | C(C)OC1=CC=C(C=C1)NNC(=O)C1CCC2(CC1)OCCO2 | C17H24N2O4
